US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 1.00 g (5.23 mmol) of methyl 1-hydroxy-2-indolecarboxylate, 5.00 g (52.3 mmol) of guanidine hydrochloride and 50 ml of a methanol solution of 2.82 g (52.3 mmol) of sodium methoxide. 1-Hydroxy-2-indoloylguanidine hydrochloride was obtained in an amount of 0.56 g (42.0%).

reactant | methyl 1-hydroxy-2-indolecarboxylate | 5.23 mmol, 1.00 g | ON1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO3
reactant | guanidine hydrochloride | 52.3 mmol, 5.00 g | Cl.NC(=N)N
reactant | sodium methoxide | 52.3 mmol, 2.82 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-Hydroxy-2-indoloylguanidine hydrochloride | Cl.ONC(=NC(=O)C=1NC2=CC=CC=C2C1)N | InChI=1S/C10H10N4O2.ClH/c11-10(14-16)13-9(15)8-5-6-3-1-2-4-7(6)12-8;/h1-5,12,16H,(H3,11,13,14,15);1H
